US07094908B2
Ethyl 3-(5-chloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.37 g, 50%) in the same manner as described in the above example 5 (20) from ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.40 g, 1.97 mmol) and 4-chlorophthalic anhydride (0.47 g, 2.56 mmol), and the obtained product was identified with the following NMR data.

reactant | ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 1.97 mmol, 0.40 g | NCC(C(=O)OCC)C1(OCCO1)C | C9H17NO4
reactant | 4-chlorophthalic anhydride | 2.56 mmol, 0.47 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
product | Ethyl 3-(5-chloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | ClC=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OCC)C1(OCCO1)C)=O | C17H18ClNO6
